US05532240
A mixture of 1.9 g of 2-chloroacetyl-4,5,6,7-tetrahydro-8H-thieno[2,3-c]azepin-8-one in 5.4 ml of triethylsilane and 15 ml of trifluoroacetic acid was stirred at 50° C. for 12 hours. The mixture was poured into water, alkalified and extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was purified by column chromatography on a silica gel to give 0.85 g of 2-chloroethyl-4,5,6,7-tetrahydro-8H-thieno[2,3-c]azepin-8-one as white crystals, m.p. 156°-158° C.

reactant | 2-chloroacetyl-4,5,6,7-tetrahydro-8H-thieno[2,3-c]azepin-8-one | 1.9 g | ClCC(=O)C1=CC2=C(C(NCCC2)=O)S1 | C10H10ClNO2S
reactant | water | O | H2O
solvent | triethylsilane | 5.4 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-chloroethyl-4,5,6,7-tetrahydro-8H-thieno[2,3-c]azepin-8-one | 0.85 g | ClCCC1=CC2=C(C(NCCC2)=O)S1 | C10H12ClNOS
